US05623074
0.90 g of 4-(6-fluoro-3,4-dimethoxyphenyl)-7,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline was dissolved in 25 ml of dichloromethane; and to the mixture was added dropwise 1M boron tribromide-dichloromethane solution (27 ml) under an argon gas stream, at internal temperature of -30° to -60° C. under cooling while stirring. The mixture was stirred for 3 hours at room temperature and 7.0 ml of methanol was added to the mixture under cooling with dry ice-methanol bath, dropwise. The mixture was stirred for 30 minutes at room temperature, the crystals which separated out was collected, giving 0.75 g of 4-(6-fluoro-3,4-dihydroxyphenyl)-7,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 4-(6-fluoro-3,4-dimethoxyphenyl)-7,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.90 g | FC1=CC(=C(C=C1C1CNCC2=C(C(=CC=C12)OC)OC)OC)OC | C19H22FNO4
reactant | boron tribromide dichloromethane | 1M, 27 ml | B(Br)(Br)Br.ClCCl
reactant | methanol | 7.0 ml | CO | CH4O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-(6-fluoro-3,4-dihydroxyphenyl)-7,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 0.75 g | Br.FC1=CC(=C(C=C1C1CNCC2=C(C(=CC=C12)OC)OC)O)O | InChI=1S/C17H18FNO4.BrH/c1-22-16-4-3-9-11(7-19-8-12(9)17(16)23-2)10-5-14(20)15(21)6-13(10)18;/h3-6,11,19-21H,7-8H2,1-2H3;1H
